US07608629B2
N-[4-Chloro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-2-trifluoromethoxy-benzamide hydrochloride
Using a method similar to Example 5, using 2-trifluoromethoxy-benzoyl chloride (0.066 ml, 0.439 mmol) and 4-chloro-3-(1-methyl-piperidin-4-yloxy)-phenylamine (preparation 31) gives the title compound as the free base (132 mg, 77%). Following a method similar to Example 2 gives the title compound as the hydrochloride salt (141 mg, pale yellow solid). Mp: 95-7° C.; mass spectrum (free base, ion spray): m/z=429.2 (M+1), 1H NMR (free base, CDCl3): 8.43 (bs, N—H), 7.98 (dd, J=1.7 Hz, 7.9 Hz, 1H), 7.65 (d, J=2.4 Hz, 1H), 7.53 (td, J=1.7 Hz, 7.9 Hz, 1H), 7.41 (t, J=7.6 Hz, 1H), 7.33-7.25 (m, 2H), 6.87 (dd, J=2.4 Hz, 8.6 Hz, 1H), 4.46-4.38 (bm, 1H), 2.69-2.61 (bm, 2H), 2.37-2.29 (bm, 2H), 2.28 (s, 3H), 2.03-1.86 (bm, 4H). Analysis calculated for C20H21Cl2F3N2O3: C, 51.63; H, 4.55; N, 6.02. Found C, 51.33; H, 4.58; N, 5.88.

reactant | 2-trifluoromethoxy-benzoyl chloride | 0.439 mmol, 0.066 ml | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
reactant | 4-chloro-3-(1-methyl-piperidin-4-yloxy)-phenylamine | ClC1=C(C=C(C=C1)N)OC1CCN(CC1)C | C12H17ClN2O
product | N-[4-Chloro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-2-trifluoromethoxy-benzamide hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(C1=C(C=CC=C1)OC(F)(F)F)=O)OC1CCN(CC1)C | InChI=1S/C20H20ClF3N2O3.ClH/c1-26-10-8-14(9-11-26)28-18-12-13(6-7-16(18)21)25-19(27)15-4-2-3-5-17(15)29-20(22,23)24;/h2-7,12,14H,8-11H2,1H3,(H,25,27);1H
